US04804400
A mixture of 16.1 g of 2-fluoro-4-chloro-5-hydroxyaniline and 12.6 g of dimethylmaleic acid anhydride in 100 ml of propionic acid are heated to 150° and stirred for 12 hours at that temperature. The reaction mixture is then allowed to cool and concentrated. The residue is cristallized from methanol and yields 27.3 g of N-(2-fluoro-4-chloro-5-hydroxyphenyl)-2,3-dimethylmaleic acid imide melting at 170°-171°.

reactant | 2-fluoro-4-chloro-5-hydroxyaniline | 16.1 g | FC1=C(N)C=C(C(=C1)Cl)O | C6H5ClFNO
reactant | dimethylmaleic acid anhydride | 12.6 g | C/C/1=C(/C(=O)OC1=O)\C | C6H6O3
solvent | propionic acid | 100 ml | C(CC)(=O)O | C3H6O2
product | N-(2-fluoro-4-chloro-5-hydroxyphenyl)-2,3-dimethylmaleic acid imide | 27.3 g | FC1=C(C=C(C(=C1)Cl)O)N1C(C(=C(C1=O)C)C)=O | C12H9ClFNO3
